US07737149B2
Lithium aluminum hydride (38.2 ml, 38.19 mmol) was added to 1-(1,4-diazepan-1-yl)ethanone (1.697 g, 11.93 mmol) in THF (59.7 ml) at 0° C. under nitrogen. The resulting solution was stirred at ambient temperature for 1 h and then at 60° C. for 1 h. The cooled reaction mixture was poured onto ice (500 mL), acidified with HCl (2M aqueous solution) and purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford 1-ethyl-1,4-diazepane (0.610 g, 40%) as a yellow liquid. This was used directly with no further purification.

reactant | Lithium aluminum hydride | 38.19 mmol, 38.2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(1,4-diazepan-1-yl)ethanone | 11.93 mmol, 1.697 g | N1(CCNCCC1)C(C)=O | C7H14N2O
reactant | HCl | 2M | Cl | ClH
solvent | THF | 59.7 ml | C1CCOC1 | C4H8O
product | 1-ethyl-1,4-diazepane | 0.610 g, 40% | C(C)N1CCNCCC1 | C7H16N2
